US06541505B1
N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-(2-pyrrolidin-1-ylpyrimidin-4-yl)benzamide.
Using pyrrolidine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. MS (ion spray) m/z 437 (M+H)+.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-(2-pyrrolidin-1-ylpyrimidin-4-yl)benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)N1CCCC1)=O | C26H24N6O
